US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-cyclohexylacetamide
2-Cyclohexyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the crude product was extracted in ethyl acetate and purified by preparative HPLC (0.034 g, 34% yield over 2 steps): 1H NMR (CD3OD) δ 8.75 (s, 1H), 8.38 (br s, 2H), 8.20 (s, 1H), 8.10 (d, 1H), 7.76 (td, 2H), 7.70 (d, 1H), 7.51 (t, 1H), 2.30 (d, 2H), 1.90 (m, 1H), 1.78 (m, 4H), 1.3 (m, 4H), 1.07 (m, 2H); ES-MS (m/z) 401 [M+H]+.

reactant | 2-Cyclohexyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | C1(CCCCC1)CC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C47H46N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-cyclohexylacetamide | 34% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC1CCCCC1)=O | C23H24N6O
